US07285663B2
3,3′-Bis(2,4-dioxo-1,4-dihydro-2H-quinolin-3-ylidene)-[1,1′]biisoindolylidene
5.0 g of [1,1′]biisoindolylidene-3,3′-diimine and 14.9 g of 1H-quinoline-2,4-dione are stirred in a mixture of 90 ml of NMP and 10 ml of glacial acetic acid at reflux for 6 hours. After cooling to room temperature the suspension is filtered and the filter product is washed with ethanol and then water and dried at 60° C. This gives 6.2 g (59%) of a virtually black powder of a compound of the following formula

reactant | [1,1′]biisoindolylidene-3,3′-diimine | 5.0 g | C1(NC(C2=CC=CC=C12)=N)=C1NC(C2=CC=CC=C12)=N | C16H12N4
reactant | 1H-quinoline-2,4-dione | 14.9 g | N1C(CC(C2=CC=CC=C12)=O)=O | C9H7NO2
solvent | NMP | 90 ml | CN1CCCC1=O | C5H9NO
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 3,3′-Bis(2,4-dioxo-1,4-dihydro-2H-quinolin-3-ylidene)-[1,1′]biisoindolylidene | O=C1NC2=CC=CC=C2C(C1=C1NC(C2=CC=CC=C12)=C1NC(C2=CC=CC=C12)=C1C(NC2=CC=CC=C2C1=O)=O)=O | C34H20N4O4
